US04603011
(1) Di-t-butylmethanol
To a solution of trimethylacetaldehyde (5.12 g, 59.4 mmol) in anhydrous tetrahydrofuran (15 ml) at -78° C. under an argon atmosphere is added 40.9 ml of a solution of t-butyllithium in hexanes (1.6M, 65.4 mmol). The mixture is allowed to warm from -78° to room temperature over 2 hours. The reaction is quenched with 25 ml of 1M hyrochloric acic and the resulting mixture extracted with two 25 ml portions of ether. The combined ethereal extracts were washed with saturated sodium bicarbonate solution and water, dried over magnesium sulfate, and the solvent evaporated to yield a yellow oil (9.3 g) which is purified by vacuum distillation to yield a colorless oil.

reactant | trimethylacetaldehyde | 59.4 mmol, 5.12 g | CC(C=O)(C)C | C5H10O
reactant | t-butyllithium | C(C)(C)(C)[Li]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | Di-t-butylmethanol | 9.3 g | C(C)(C)(C)C(O)C(C)(C)C | C9H20O
